US08492378B2
methyl 3-(2-pyridyl)imidazo[1,2-a]pyridine-6-carboxylate
A mixture of methyl 3-iodoimidazo[1,2-a]pyridine-6-carboxylate (1.00 g, 3.30 mmol), 2-(tri-n-butylstannyl)pyridine (2.44 mg, 6.62 mmol), tetrakis(triphenylphosphine)palladium(0) (381 mg, 0.33 mmol) and toluene (50 mL) was heated under reflux overnight. After cooling, the reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=4/1-1/1) to give the title compound (630 mg, yield 75%) as colorless crystals.

reactant | methyl 3-iodoimidazo[1,2-a]pyridine-6-carboxylate | 3.30 mmol, 1.00 g | IC1=CN=C2N1C=C(C=C2)C(=O)OC | C9H7IN2O2
reactant | 2-(tri-n-butylstannyl)pyridine | 6.62 mmol, 2.44 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.33 mmol, 381 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(2-pyridyl)imidazo[1,2-a]pyridine-6-carboxylate | 630 mg, yield 75% | N1=C(C=CC=C1)C1=CN=C2N1C=C(C=C2)C(=O)OC | C14H11N3O2
